US05232940
A stirred solution of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylthio-3-trifluoromethylpyrazole (1.0 g) in chloroform (40 ml) was treated with m-chloroperbenzoic acid (0.42 g), portionwise at room temperature. After stirring for 6 hours, the solution was diluted with dichloromethane and washed in turn with sodium sulphite solution, sodium hydroxide solution, and water. The solution was dried over anhydrous magnesium sulphate, and evaporated in vacuo to give a yellow oil. Purification by chromatography on silica (Merck, 230-400 mesh, 0.7 kg cm-2) eluting with dichloromethane-ethylacetate (4:1) gave 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylsulphinyl-3-trifluoromethylpyrazole in the form of a white solid, m.p. 142°-145° C. with decomposition.

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylthio-3-trifluoromethylpyrazole | 1.0 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F)SC | C12H7Cl2F6N3S
reactant | m-chloroperbenzoic acid | 0.42 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylsulphinyl-3-trifluoromethylpyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F)S(=O)C | C12H7Cl2F6N3OS
